US06069109
Synthesis of (n-butylcyclopentadienyl)zirconium trispivalate
To a solution of bis(n-butylcyclopentadienyl)zirconium dichloride (1.001 g, 2.477 mmol ) and pivalic acid (0.760 g, 7.451 mmol ) in toluene (25 ml) at 25° C. was added triethylamine (0.871 g, 8.610 mmol ) with stirring. A white precipitate formed immediately which was removed by filtration. The title compound was isolated as a light orange oil in 78% yield by evaporating the solvent under vacuum. The title compound such prepared exhibit purity above 95% based on MNR results. 1H NMR (toluene-d8) δ 6.22 (m,2H), 5.97 (m,2H), 2.61 (t,J=7.7 Hz, 2H), 1.51 (m, 2H), 1.29 (m, 2H), 1.11 (s, 27H), 0.87 (t, J=7.2 Hz 3H).

reactant | bis(n-butylcyclopentadienyl)zirconium dichloride | 2.477 mmol, 1.001 g | [Cl-].[Cl-].C(CCC)C1(C=CC=C1)[Zr+2]C1(C=CC=C1)CCCC
reactant | pivalic acid | 7.451 mmol, 0.760 g | C(C(C)(C)C)(=O)O | C5H10O2
reactant | triethylamine | 8.610 mmol, 0.871 g | C(C)N(CC)CC | C6H15N
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
product | (n-butylcyclopentadienyl)zirconium trispivalate | 78% yield | C(C(C)(C)C)(=O)[O-].C(C(C)(C)C)(=O)[O-].C(C(C)(C)C)(=O)[O-].C(CCC)C1(C=CC=C1)[Zr+3] | InChI=1S/C9H13.3C5H10O2.Zr/c1-2-3-6-9-7-4-5-8-9;3*1-5(2,3)4(6)7;/h4-5,7-8H,2-3,6H2,1H3;3*1-3H3,(H,6,7);/q;;;;+3/p-3
